US06143777
A solution of 4-{3-[(3-nitrobenzyl)carbamoyl]-5-ethylthiophen-2-ylcarbamoyl}cyclohexanecarboxylic acid in methanol is hydrogenated in the presence of Raney nickel. The catalyst is filtered off and the solution is concentrated. After recrystallization, 4-{3-[(3-aminobenzyl)carbamoyl]-5-ethylthiophen-2-ylcarbamoyl}cyclohexanecarboxylic acid is obtained.

reactant | 4-{3-[(3-nitrobenzyl)carbamoyl]-5-ethylthiophen-2-ylcarbamoyl}cyclohexanecarboxylic acid | [N+](=O)([O-])C=1C=C(CNC(=O)C2=C(SC(=C2)CC)NC(=O)C2CCC(CC2)C(=O)O)C=CC1 | C22H25N3O6S
solvent | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 4-{3-[(3-aminobenzyl)carbamoyl]-5-ethylthiophen-2-ylcarbamoyl}cyclohexanecarboxylic acid | NC=1C=C(CNC(=O)C2=C(SC(=C2)CC)NC(=O)C2CCC(CC2)C(=O)O)C=CC1 | C22H27N3O4S
